### PR TITLE
fingroup part of CohenCyril's abel backport 

### PR DESCRIPTION
**Pull request by Tragicus**
##### Motivation for this change

Extracts the part from https://github.com/math-comp/math-comp/pull/944 that concern fingroup.

Depends on:
- https://github.com/math-comp/math-comp/pull/1195

##### Things done/to do

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers
- [ ] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)

##### Compatibility with MathComp 1.X

- [ ] I added the label `TODO: MC-1 port` to make sure someone ports this PR to
      the `mathcomp-1` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

File: mathcomp/fingroup/action.v [hunk 1]
```diff
@@ -2725,6 +2725,35 @@ Lemma autact_is_groupAction : is_groupAction G aut_action.
 Proof. by move=> a Aa /=; rewrite autactK. Qed.
 Canonical aut_groupAction := GroupAction autact_is_groupAction.
 
+Section prime_orbit.
+Variable (T : finType) (c : {perm T}).
+Hypothesis Tp :  prime #|T|.
+Hypothesis cc : #[c]%g = #|T|.
+Let cp : prime #[c]%g. Proof. by rewrite cc. Qed.
+
+Lemma prime_atrans : [transitive <[c]>, on setT | 'P].
```
Comment (thery) [inline mathcomp/fingroup/action.v:2734]: the names of this section  are not very informative, `perm` should occur in it.  Maybe something like `perm_prime_atrans`

File: mathcomp/fingroup/action.v [hunk 2]
```diff
@@ -2725,6 +2725,35 @@ Lemma autact_is_groupAction : is_groupAction G aut_action.
...
+Proof using c Tp cc.
```
Comment (thery) [inline mathcomp/fingroup/action.v:2735]: is this kasher in mathcomp?

File: mathcomp/fingroup/perm.v [hunk 3]
```diff
@@ -298,12 +298,20 @@ Lemma inj_tperm (T T' : finType) (f : T -> T') x y z :
...
+Section tpermJ.
+Variables (T : finType).
+Implicit Types (x y z : T) (s : {perm T}).
+
+Lemma tpermJ x y s : (tperm x y) ^ s = tperm (s x) (s y).
 Proof.
 by apply/permP => z; rewrite -(permKV s z) permJ; apply/inj_tperm/perm_inj.
 Qed.
 
+Lemma tpermJt x y z : x != z -> y != z -> tperm x z ^ tperm x y = tperm y z.
```
Comment (thery) [inline mathcomp/fingroup/perm.v:310]: tpermJ_trans?

File: mathcomp/fingroup/gproduct.v [hunk 4]
```diff
@@ -1113,6 +1123,196 @@ Qed.
 
 End ExternalDirProd.
 
+Section ExternalDirDepProd.
```
Comment (thery) [inline mathcomp/fingroup/gproduct.v:1126]: I don't follow exactly what is happening here but there is no impact of this new section in the documentation at the beginning of this file?

Comment (thery) [reply mathcomp/fingroup/gproduct.v:1126]: Also this seems a generalization of the previous section.
Should the previous section should not be presented as an instanciation of this new section?

File: mathcomp/fingroup/action.v (hunk 2 above)
Comment (Tragicus) [reply mathcomp/fingroup/action.v:2735]: It was not needed, actually.

File: mathcomp/fingroup/perm.v (hunk 3 above)
Comment (Tragicus) [reply mathcomp/fingroup/perm.v:310]: The suffix `t` makes sense to me as an abbreviation for `tperm`, but we may have to declare it in the documentation of the file. I put `tpermJ_tperm` for now.

File: mathcomp/fingroup/action.v (hunk 1 above)
Comment (thery) [reply mathcomp/fingroup/action.v]: you should also change the name in the CHANGE_LOG

File: mathcomp/fingroup/perm.v (hunk 3 above)
Comment (thery) [reply mathcomp/fingroup/perm.v]: I did not find any example where this abbrev is used

File: mathcomp/fingroup/action.v (hunk 1 above)
Comment (Tragicus) [reply mathcomp/fingroup/action.v]: Oops

File: mathcomp/fingroup/perm.v (hunk 3 above)
Comment (Tragicus) [reply mathcomp/fingroup/perm.v]: True, I mean that I would be in favor of adding this abbreviation.

Comment (thery) [reply mathcomp/fingroup/perm.v]: I am ok with the name but it makes the line 1 character too long (81)

**Comment by thery** [comment]
This is fine with me, it can be merged
